US07192954B2
Step A. 4-Phenylimidazol-2-one
Potassium cyanate (2.00 g, 24.7 mmol) was added in portions, over 15 min, to a stirred solution of 2-aminoacetophenone hydrochloride (3.85 g, 22.4 mmol) in water (130 mL) at 70° C., while the pH of the solution was maintained at pH 1 to 3 by addition of conc. hydrochloric acid. The reaction mixture was stirred at 70° C. for 4 h, then allowed to cool to ambient temperature and stood for 18 h. The title compound was isolated by filtration as a white solid. MS: m/z=161 (M+1).

reactant | Potassium cyanate | 24.7 mmol, 2.00 g | [O-]C#N.[K+]
reactant | 2-aminoacetophenone hydrochloride | 22.4 mmol, 3.85 g | Cl.NCC(=O)C1=CC=CC=C1
reactant | hydrochloric acid | Cl | ClH
solvent | water | 130 mL | O | H2O
product | 4-Phenylimidazol-2-one | C1(=CC=CC=C1)C1=NC(N=C1)=O | C9H6N2O
